US04474754
5.32 Grams of Z-Asn-OH was dissolved in 60 ml of tetrahydrofuran, 10 ml of dimethylformamide and 2.04 ml of N-methylmorpholine, to this mixture was added 40 ml of a dimethylformamide solution containing 2.64 ml of isobutyl chloroformate, 3.91 g of H-Leu-OEt.HCl and 2.80 ml of triethylamine and the reaction was carried out by a procedure similar to that described in Reference example 2. After removal of the solvent by distillation, to the residue obtained was added 1M-citric acid, the precipitate formed was collected by filtration, washed with water, dried under a reduced pressure, then was recrystallized from ethyl acetate to obtain 6.1 g of Z-Asn-Leu-OEt.

reactant | Z-Asn-OH | N([C@@H](CC(N)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C12H14N2O5
reactant | N-methylmorpholine | 2.04 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 2.64 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | H-Leu-OEt.HCl | 3.91 g | N[C@@H](CC(C)C)C(=O)OCC.Cl
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 2.80 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Z-Asn-Leu-OEt | 6.1 g | N([C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C20H29N3O6
